US08703946B2
A 2M aqueous solution of sodium hydroxide (0.53 mL, 1.06 mmol) was added to a stirred solution of {5-[(4-fluorophenyl)carbonyl]-2-(phenoxymethyl)-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrazin-3-yl}boronic acid (0.21 g, 0.53 mmol) and hydrogen peroxide (0.084 mL, 1.06 mmol) in THF (5.3 mL) at 0° C. The mixture was stirred at room temperature for 16 hours. Then the solvent was evaporated in vacuo and the crude product was purified by flash column chromatography (silica; 7N solution of ammonia in methanol in DCM 0/100 to 5/95). The desired fractions were collected and the solvents evaporated in vacuo to yield (4-fluoro-phenyl)-(3-hydroxy-2-phenoxymethyl-6,7-dihydro-4H-pyrazolo[1,5-a]pyrazin-5-yl)-methanone (19 mg, 10% yield) as a colourless oil.

reactant | sodium hydroxide | 1.06 mmol, 0.53 mL | [OH-].[Na+]
reactant | {5-[(4-fluorophenyl)carbonyl]-2-(phenoxymethyl)-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrazin-3-yl}boronic acid | 0.53 mmol, 0.21 g | FC1=CC=C(C=C1)C(=O)N1CC=2N(CC1)N=C(C2B(O)O)COC2=CC=CC=C2 | C20H19BFN3O4
reactant | hydrogen peroxide | 1.06 mmol, 0.084 mL | OO | H2O2
solvent | THF | 5.3 mL | C1CCOC1 | C4H8O
product | (4-fluoro-phenyl)-(3-hydroxy-2-phenoxymethyl-6,7-dihydro-4H-pyrazolo[1,5-a]pyrazin-5-yl)-methanone | 19 mg, 10% yield | FC1=CC=C(C=C1)C(=O)N1CC=2N(CC1)N=C(C2O)COC2=CC=CC=C2 | C20H18FN3O3
